US07141690B2
Under nitrogen atmosphere, a reactor was loaded with polyphosphoric acid (72.1 g) and phosphorus pentoxide (72.1 g, 0.51 mol) was added thereto and stirred at 140° C. for 1 hour. Then, a solution of 2-methyl-3-[5-methylthiophen-2-yl]propanoic acid (43.0 g, 0.23 mol) in 1,2-dichloroethane (75 mL) was added dropwise and stirred at 100° C. for 2 hours. The reaction mixture was added to iced water (1,000 mL) with stirring and after 30 minutes, extracted with chloroform to obtain an organic layer. The organic layer was washed with an aqueous saturated sodium carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a black oil. The oil was purified by silica gel chromatography (hexane/ethyl acetate=5/1) to obtain 2,5-dimethyl-5,6-dihydrocyclopenta[1,2-b]thiophen-4-one (32.6 g, 84.1%) as a reddish brown oil.

reactant | phosphorus pentoxide | 0.51 mol, 72.1 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-methyl-3-[5-methylthiophen-2-yl]propanoic acid | 0.23 mol, 43.0 g | CC(C(=O)O)CC=1SC(=CC1)C | C9H12O2S
reactant | water | 1,000 mL | O | H2O
solvent | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
product | 2,5-dimethyl-5,6-dihydrocyclopenta[1,2-b]thiophen-4-one | 32.6 g, 84.1% | CC1=CC2=C(S1)CC(C2=O)C | C9H10OS
